US06734180B1
4-(5-phenoxyindan-2-yl)amino-5-methylthieno[2,3-d]pyrimidine
using 2-amino-5-phenoxyindan hydrochloride (99 mg, 0.36 mmol), ethanol (3 ml), triethylamine (92 μl, 0.66 mmol), and 4-chloro-5-methylthieno[2,3-d]pyrimidine (61 mg, 0.33 mmol), a similar procedure to b) in Example 19 was carried out. The product obtained was purified by silica gel chromatography (hexane:ethyl acetate=1:1) to obtain the title compound (51 mg, 0.13 mmol) having the following physical properties:

reactant | 2-amino-5-phenoxyindan hydrochloride | 0.36 mmol, 99 mg | Cl.NC1CC2=CC=C(C=C2C1)OC1=CC=CC=C1
reactant | triethylamine | 0.66 mmol, 92 μl | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-5-methylthieno[2,3-d]pyrimidine | 0.33 mmol, 61 mg | ClC=1C2=C(N=CN1)SC=C2C | C7H5ClN2S
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-(5-phenoxyindan-2-yl)amino-5-methylthieno[2,3-d]pyrimidine | 0.13 mmol, 51 mg | O(C1=CC=CC=C1)C=1C=C2CC(CC2=CC1)NC=1C2=C(N=CN1)SC=C2C | C22H19N3OS
